US04011326
Step B: Preparation of 3-methoxy-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid
A mixture of 0.02 mole of 3-hydroxy-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid, and 40 ml. of 2 N sodium hydroxide solution is treated with 0.04 mole of dimethylsulfate over a 5 minutes period, and the mixture is stirred for 24 hours. The mixture is washed with 3 × 50 ml. of ether and acidified with dilute hydrochloric acid. The precipitate is collected, washed with water, dried at room temperature and 100μ pressure and recrystallized from cyclohexane.

reactant | 3-hydroxy-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | 0.02 mole | OC=1C=C(C=2CCCCC2C1)C(=O)O | C11H12O3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | dimethylsulfate | 0.04 mole | COS(=O)(=O)OC | C2H6O4S
product | 3-methoxy-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | COC=1C=C(C=2CCCCC2C1)C(=O)O | C12H14O3
